US04290971
5.2 g (0.02 M) of N-(2,6-dichlorophenyl)-N'-acetylthiourea, 2.1 g (0.015M) of ground potassium carbonate, 3.3 ml (0.03M) of isobutylbromide and 50 ml of acetone were heated together under stirring and reflux for 4 hours. The acetone was then distilled off. The residue in the flask was washed with water and then filtered. 5.9 g (92% of theoretical yield) of N-(2,6-dichlorophenyl)-N'-acetyl-S-isobutyl-thiourea melting at 106° to 112° were obtained. After recrystallization from benzene the product melted at 114° to 116° C.

reactant | N-(2,6-dichlorophenyl)-N'-acetylthiourea | 0.02 M, 5.2 g | ClC1=C(C(=CC=C1)Cl)NC(=S)NC(C)=O | C9H8Cl2N2OS
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | isobutylbromide | 0.03M, 3.3 ml | C(C(C)C)Br | C4H9Br
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N-(2,6-dichlorophenyl)-N'-acetyl-S-isobutyl-thiourea | 5.9 g, 92% | ClC1=C(C(=CC=C1)Cl)NC(=SCC(C)C)NC(C)=O | C13H18Cl2N2OS
